US07776535B2
Synthesis of 4-bromomethyl-2′, 6′-difluorobenzophenone (16).
A mixture of 233 mg (1 mmol) of 4-methyl-2′,6′-difluorobenzophenone, 178 mg (1 mmol) of recrystallized N-bromosuccinimide, 17 mg benzoyl peroxide, and 3 mL CCl4 were refluxed under argon for 3 hours. The hot solution was filtered through a glass sintered filter and rinsed with 20 mL of hot CCl4 until the crystals became colorless. The crystals were washed with 6 mL of cold CCl4 and the solution was concentrated under vacuum. The crude product was purified by column chromatography on a silica gel flash column (13 cm×55 mm) eluted with ethyl acetate/hexane (15:85) and then concentrated under vacuum. The product was allowed to dry under high vacuum overnight. The resultant yield was 55%. Rf=0.3 (ethyl Acetate/hexane; 15:85). 1H-NMR: δ 7.84 (d, 2H, aromatic), 7.50 (d, 2H, aromatic), 7.46 (t, 1H, aromatic), 7.01 (m, 2H, aromatic), 4.51 (s, 2H). 13C-NMR (CDCl3): δ 188.1 (carbonyl); 160.8, 158.8, 143.9, 136.6, 132.0, 130.0, 129.4, 111.9 (aromatic), 31.8 (alkyl bromide).

reactant | 4-methyl-2′,6′-difluorobenzophenone | 1 mmol, 233 mg | CC1=CC=C(C(=O)C2=C(C=CC=C2F)F)C=C1 | C14H10F2O
reactant | N-bromosuccinimide | 1 mmol, 178 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 17 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-2′, 6′-difluorobenzophenone | yield was 55% | BrCC1=CC=C(C(=O)C2=C(C=CC=C2F)F)C=C1 | C14H9BrF2O
